US07576135B2
2-(4-fluoroanilino)-2-oxoacetic acid methyl ester
In a manner similar to that employed in Referential Example 242, the title compound was prepared from 4-fluoroaniline and methyl chlorooxoacetate.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-(4-fluoroanilino)-2-oxoacetic acid methyl ester | COC(C(=O)NC1=CC=C(C=C1)F)=O | C9H8FNO3
